US06479495B1
Dimethylcarbamic Acid 2-methoxy-4-[2-(4-pyridin-2-yl-piperazin-1-yl)ethyl]phenyl Ester Hydrochloride
To a solution of 2-methoxy-4-[2-(4-pyridin-2-yl-piperazin-1-yl)ethyl)phenol (1.0 g) and cesium carbonate (1.0 g) in 25% acetonitrile/dichloromethane was added dimethylcarbamyl chloride (0.7 g), and the reaction mixture was stirred for 18 hrs, under nitrogen. The reaction mixture was diluted with ethyl acetate, and washed with brine, dried over anhydrous sodium sulfate, and concentrated. The residue was flash chromatographed (silica) eluting with 2% methanol/dichloromethane. The appropriate fractions were collected and concentrated. The residue was dissolved in ethyl acetate and ethereal hydrogen chloride was added. The precipitate was collected to give product 0.9 g (73%), mp 192-193° C.

reactant | 2-methoxy-4-[2-(4-pyridin-2-yl-piperazin-1-yl)ethyl)phenol | 1.0 g | COC1=C(C=CC(=C1)CCN1CCN(CC1)C1=NC=CC=C1)O | C18H23N3O2
reactant | cesium carbonate | 1.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethylcarbamyl chloride | 0.7 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | acetonitrile dichloromethane | C(C)#N.ClCCl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Dimethylcarbamic Acid 2-methoxy-4-[2-(4-pyridin-2-yl-piperazin-1-yl)ethyl]phenyl Ester Hydrochloride | 0.9 g, 73% | Cl.COC1=C(C=CC(=C1)CCN1CCN(CC1)C1=NC=CC=C1)OC(N(C)C)=O | InChI=1S/C21H28N4O3.ClH/c1-23(2)21(26)28-18-8-7-17(16-19(18)27-3)9-11-24-12-14-25(15-13-24)20-6-4-5-10-22-20;/h4-8,10,16H,9,11-15H2,1-3H3;1H
